US07635684B2
To a solution of 2-benzyloxycarbonylamino-2-(methyl)-propionic acid (1 g) in tetrahydrofuran (5 mL) was added 1,1′-carbonylbis-1H-imidazole (889 mg), and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added 2-aminoethanol (0.38 mL), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=20/1) to give 2-[2-benzyloxycarbonylamino-2-(methyl)propionylamino]ethanol (973 mg).

reactant | 2-benzyloxycarbonylamino-2-(methyl)-propionic acid | 1 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)(C)C | C12H15NO4
reactant | 1,1′-carbonylbis-1H-imidazole | 889 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-aminoethanol | 0.38 mL | NCCO | C2H7NO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-[2-benzyloxycarbonylamino-2-(methyl)propionylamino]ethanol | 973 mg | C(C1=CC=CC=C1)OC(=O)NC(C(=O)NCCO)(C)C | C14H20N2O4
